### PR TITLE
refactor+feat: PGrpd pullback of PCat

### PR DESCRIPTION
**Pull request by Jlh18**
1. I refactored a lot of the files so that 
- everything about pointed categories and groupoids are in `GroupoidModel.Pointed`
- everything about grothendieck constructions (groupoidal or vanilla) are in `GroupoidModel.Grothendieck`

2. I proved that `PGrpd.forgetToCat` is a pullback of `PCat.forgetToCat` using pullback pasting + the the proof that the Grothendieck construction is a pullback of `PCat.forgetToCat`

### CODE REVIEW

File: GroupoidModel/Grothendieck/Pullback.lean [hunk 1]
```diff
@@ -47,52 +46,48 @@ theorem toPCat_obj_fiber_inj {x y : Grothendieck A}
...
 -/
+namespace IsPullback
+
 variable (Γ : Type u) [Category.{v} Γ] (A : Γ ⥤ Cat.{v,v})
 
 open Functor ULift
 
-def uLiftΓ : Cat.{v, max v u + 1} :=
-  Cat.of $ ULift.{max v u + 1} Γ
+def uLiftΓ : Cat.{v, max u (v+1)} :=
```
Comment (Vtec234) [inline GroupoidModel/Grothendieck/Pullback.lean:74]: Is this just a stylistic change, or does it affect universe unification (I would hope it doesn't!)?

Comment (Jlh18) [reply GroupoidModel/Grothendieck/Pullback.lean:74]: These two universe values are different. In particular if `u = v+1` the good one is just `v+1` but the bad one is `v + 2`

File: GroupoidModel/Groupoids/GroupoidNaturalModel.lean [hunk 2]
```diff
@@ -1,11 +1,15 @@
...
 import GroupoidModel.Tarski.NaturalModel
-import GroupoidModel.Groupoids.GrothendieckPullback
+import GroupoidModel.Grothendieck.Pullback
+import GroupoidModel.Grothendieck.Groupoidal
 
 
 /-!
 Here we construct the natural model for groupoids.
+
+This file needs to eventually be ported to GroupoidRussellNaturalModel
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/GroupoidNaturalModel.lean:11]:
```suggestion
TODO: This file needs to eventually be ported to GroupoidRussellNaturalModel
```

File: GroupoidModel/Groupoids/GroupoidRussellNaturalModel.lean [hunk 3]
```diff
@@ -0,0 +1,226 @@
...
+  inv f := Groupoid.inv f
+  inv_comp _ := Groupoid.inv_comp ..
+  comp_inv _ := Groupoid.comp_inv ..
+
+instance groupoidULiftHom.{u'} {α : Type u} [Groupoid.{v} α] : Groupoid (ULiftHom.{u'} α) where
+  inv f := .up (Groupoid.inv f.down)
+  inv_comp _ := ULift.ext _ _ <| Groupoid.inv_comp ..
+  comp_inv _ := ULift.ext _ _ <| Groupoid.comp_inv ..
+
+inductive Groupoid2 : Type (u+2) where
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/GroupoidRussellNaturalModel.lean:129]: Do we still need this with Russell?

File: GroupoidModel/Pointed/Pullback.lean [hunk 4]
```diff
@@ -0,0 +1,179 @@
...
+        |                           |
+        v                           v
+      Grpd.{u,u}------≅---->↑Grpd.{u,u}
+-/
+theorem isPullback_forgetToGrpd_uLiftGrothendieckForget :
+    IsPullback
+    ((isoGrothendieckForgetToCat.{u,u} ≪≫ Cat.ULift_iso_self.symm).hom)
+    (Cat.homOf PGrpd.forgetToGrpd.{u,u})
+    (IsPullback.uLiftGrothendieckForget.{u,u+1} Grpd.forgetToCat.{u,u})
+    Cat.ULift_iso_self.{u}.inv := by
```
Comment (Vtec234) [inline GroupoidModel/Pointed/Pullback.lean:78]:
```suggestion
    IsPullback
      ((isoGrothendieckForgetToCat.{u,u} ≪≫ Cat.ULift_iso_self.symm).hom)
      (Cat.homOf PGrpd.forgetToGrpd.{u,u})
      (IsPullback.uLiftGrothendieckForget.{u,u+1} Grpd.forgetToCat.{u,u})
      Cat.ULift_iso_self.{u}.inv := by
```

File: GroupoidModel/Pointed/Pullback.lean [hunk 5]
```diff
@@ -0,0 +1,179 @@
...
+        |                                                           |
+        v                                                           v
+    ↑Grpd.{u,u} -------------↑forgetToCat------------------>↑Cat.{u,u}
+-/
+theorem isPullback_grothendieckForget_forgetToCat :
+    IsPullback
+    (IsPullback.uLiftToPCat.{u,u+1} Grpd.forgetToCat.{u,u})
+    (IsPullback.uLiftGrothendieckForget.{u,u+1} Grpd.forgetToCat.{u,u})
+    (IsPullback.uLiftPCatForgetToCat.{u,u+1})
+    (IsPullback.uLiftA.{u,u+1} Grpd.forgetToCat.{u,u}) :=
```
Comment (Vtec234) [inline GroupoidModel/Pointed/Pullback.lean:109]:
```suggestion
    IsPullback
      (IsPullback.uLiftToPCat.{u,u+1} Grpd.forgetToCat.{u,u})
      (IsPullback.uLiftGrothendieckForget.{u,u+1} Grpd.forgetToCat.{u,u})
      (IsPullback.uLiftPCatForgetToCat.{u,u+1})
      (IsPullback.uLiftA.{u,u+1} Grpd.forgetToCat.{u,u}) :=
```

File: GroupoidModel/Pointed/Pullback.lean [hunk 6]
```diff
@@ -0,0 +1,179 @@
...
+        |                          |
+        v                          v
+      ↑Cat-----------≅---------->Cat
+-/
+theorem isPullback_uLiftPCatForgetToCat_forgetToCat :
+    IsPullback
+    Cat.ULift_iso_self.{u}.hom
+    (IsPullback.uLiftPCatForgetToCat.{u,u})
+    (Cat.homOf PCat.forgetToCat.{u,u})
+    Cat.ULift_iso_self.{u}.hom := by
```
Comment (Vtec234) [inline GroupoidModel/Pointed/Pullback.lean:128]:
```suggestion
    IsPullback
      Cat.ULift_iso_self.{u}.hom
      (IsPullback.uLiftPCatForgetToCat.{u,u})
      (Cat.homOf PCat.forgetToCat.{u,u})
      Cat.ULift_iso_self.{u}.hom := by
```

**Review by Vtec234 — APPROVED** [review]

File: GroupoidModel/Groupoids/GroupoidRussellNaturalModel.lean (hunk 3 above)
Comment (Jlh18) [reply GroupoidModel/Groupoids/GroupoidRussellNaturalModel.lean:129]: Nope. We can get rid of it.
